US04851419
2-(1-Methyl-1H-benzimidazol-2-yl sulphinyl)benzenamine
2-(1H-Benzimidazol-2-yl sulphinyl)benzenamine (850 mg, 3.31 mmole) in dimethylformamide (16 ml) and methyl iodide (515 mg, 3.63 mmole) were stirred at room temperature for 6 hours in a stoppered flask in the presence of potassium carbonate (1.66 g, 12 mmole). The mixture was poured into water and extracted with ethyl acetate (3×). The combined extracts were washed with water (3×), dried (anhydrous sodium sulphate) and evaporated to give a pale grey solid which was triturated with ether to give the title compound as an off-white solid (0.78 g; 87%), mp 146°-8° (dec).

reactant | 2-(1H-Benzimidazol-2-yl sulphinyl)benzenamine | 3.31 mmole, 850 mg | N1C(=NC2=C1C=CC=C2)S(=O)C2=C(C=CC=C2)N | C13H11N3OS
reactant | methyl iodide | 3.63 mmole, 515 mg | CI | CH3I
reactant | potassium carbonate | 12 mmole, 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | 2-(1-Methyl-1H-benzimidazol-2-yl sulphinyl)benzenamine | 0.78 g, 87% | CN1C(=NC2=C1C=CC=C2)S(=O)C2=C(C=CC=C2)N | C14H13N3OS
